US05523495
40.00 Grams of 2-chloroallylphenylcarbinol were dissolved in 400 g of dimethylformamide, and 36.85 g of potassium hydroxide in a flake form were added. The mixture was stirred at room temperature for 2 hours and then neutralized with a 20% acetic acid aqueous solution. The resultant mixture was subjected to extraction with toluene. The toluene phase was washed with water and then dried over magnesium sulfate. The desiccant was filtered off, and the toluene was distilled off under reduced pressure to give 31.35 g of phenylpropargylcarbinol, nD20 =1.546, FI-MS m/e 146 (M+), propargyl compound/allene compound=92.3/7.7.

reactant | 2-chloroallylphenylcarbinol | ClC(CC(O)C1=CC=CC=C1)=C | C10H11ClO
reactant | potassium hydroxide | 36.85 g | [OH-].[K+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 400 g | CN(C=O)C | C3H7NO
product | phenylpropargylcarbinol | 31.35 g | C1(=CC=CC=C1)C(O)CC#C | C10H10O
